US05506219
A. 2-[(4-Fluorophenyl)methylene]-4-methyl-3-oxopentanoic acid, ethyl ester
A mixture of 4-fluorobenzaldehyde (3.00 gm, 24 mmol), ethyl isobutyrylacetate (3.82 gm, 24 mmol), piperdine (240 ul), and HOAc (42 ul) was refluxed in benzene (15 ml) with removal of water (Dean-Stark trap) for 22 hours. The cooled mixture was diluted with Et2O and washed successively with 2% HCl, saturated NaHCO3, H2O, and brine, then dried (Na2SO4), filtered, and stripped to yield an oil. Distillation of the oil (bp 110°-113° C. at 0.25 mm) afforded the title compound (5.32 gm, 83%) as a pale yellow liquid. This reaction has been successfully scaled up to 300 mmol.

reactant | 4-fluorobenzaldehyde | 24 mmol, 3.00 gm | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ethyl isobutyrylacetate | 24 mmol, 3.82 gm | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | piperdine | 240 ul | N1CCCCC1 | C5H11N
reactant | HOAc | 42 ul | CC(=O)O | C2H4O2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-[(4-Fluorophenyl)methylene]-4-methyl-3-oxopentanoic acid, ethyl ester | 5.32 gm, 83% | FC1=CC=C(C=C1)C=C(C(=O)OCC)C(C(C)C)=O | C15H17FO3
